.subckt FOLDED_CASCODE_OTA VSS VDD VOUT VINN VINP VBN VBP VTAIL 
* PMOS differential input pair
XM1 NET1 VINP VTAIL VDD sky130_fd_pr__pfet_01v8 w={W_in} l=0.15
XM2 VOUT VINN VTAIL VDD sky130_fd_pr__pfet_01v8 w={W_in} l=0.15

* NMOS folding devices
XM3 NET1 VBN NET2 VSS sky130_fd_pr__nfet_01v8 w={W_fold} l=0.15
XM4 VOUT VBN NET3 VSS sky130_fd_pr__nfet_01v8 w={W_fold} l=0.15

* NMOS cascode (bottom) - FIXED: NET2 and NET3 connect to folding devices
XM5 NET2 VBN VSS VSS sky130_fd_pr__nfet_01v8 w={W_casc_n} l=0.15
XM6 NET3 VBN VSS VSS sky130_fd_pr__nfet_01v8 w={W_casc_n} l=0.15

* PMOS current mirror loads
XM7 NET1 NET1 NET5 VDD sky130_fd_pr__pfet_01v8 w={W_sink} l=0.15
XM8 VOUT NET1 NET6 VDD sky130_fd_pr__pfet_01v8 w={W_sink} l=0.15

* PMOS cascode (top)
XM9  NET5 VBP VDD VDD sky130_fd_pr__pfet_01v8 w={W_mirror} l=0.15
XM10 NET6 VBP VDD VDD sky130_fd_pr__pfet_01v8 w={W_casc_p} l=0.15
.ends FOLDED_CASCODE_OTA
