* Folded-Cascode OTA testbench
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.options GMIN=1e-10 RELTOL=1e-4 ABSTOL=1e-12

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_casc_n={W_casc_n_base*20}
+W_casc_p={W_casc_p_base*20}
+W_fold={W_fold_base*4}
+W_in={W_in_base*4}
+W_mirror={W_mirror_base*20}
+W_sink={W_sink_base*20}



*********** Unit Under Test ********************
.include "ams_folded_cascode_ota.cir"
*********** Test-bench *************************


* Rails - Use voltage sources to measure current
VVDD  VDD_NODE   0   DC 1.8
VVSS  VSS_NODE   0   DC 0

* Bias voltages
VBN   VBN_NODE   0   DC 0.7
VBP   VBP_NODE   0   DC 1.0

* Differential inputs
VINP  VINP_NODE  0   DC 0.9 AC 0.5
VINN  VINN_NODE  0   DC 0.9 AC -0.5

* Tail current - Use 0V voltage source to measure current
VTAIL VDD_NODE VTAIL_NODE DC 0
ITAIL_SRC VTAIL_NODE 0 DC 10e-6

* DUT and load
XOTA  VSS_NODE VDD_NODE VOUT_NODE VINN_NODE VINP_NODE VBN_NODE VBP_NODE VTAIL_NODE FOLDED_CASCODE_OTA
CLOAD VOUT_NODE VSS_NODE 1e-12

.op
.ac dec 200 1 10G

* Measurements
.measure ac dc_gain_db max vdb(VOUT_NODE)
.measure ac ugbw when vdb(VOUT_NODE)=0 fall=1

.control
set noaskquit
op

ac dec 200 1 10G
setplot ac1

* AC gain
let vout_ac = ac1.v(VOUT_NODE)
let gain_linear = mag(vout_ac[0])
let gain_db = 20*log(gain_linear)/log(10)
print gain_db

* UGBW
let vout_mag = mag(vout_ac)
let freq_vec = frequency
let gain_db_vec = 20*log(vout_mag)/log(10)

let idx = 0
while idx < length(gain_db_vec) - 1
  if (gain_db_vec[idx] > 0) & (gain_db_vec[idx+1] < 0)
    let ugbw_hz = freq_vec[idx]
    break
  end
  let idx = idx + 1
end

* my_testbench_template parse-friendly post-processed measures
let dc_gain_db = gain_db
let ugbw = real(ugbw_hz) * 1e-6
let power_dc = abs(i(VVDD)[0]) * 1.8 * 100 * 1e6
let fom = dc_gain_db * ugbw / power_dc
print power_dc ugbw fom

quit
.endc
.end
