* Bandgap Reference Circuit - Complete Characterization
.subckt BANDGAP_REFERENCE VDD GND VREF QP1 QP2 QP3 NET1 NET5 NET6 NET7
    *** Current Mirror (PMOS) - This is the main current source
    XMP1 NET1 NET2 VDD VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w={W_mp} m=3
    XMP2 NET2 NET2 VDD VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w={W_mp} m=3
    XMP3 NET3 NET2 VDD VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w={W_mp} m=1
    
    *** NMOS devices (NOT self-biased - just diode-connected for low impedance)
    XMN1 NET1 NET1 QP1 GND sky130_fd_pr__nfet_01v8_lvt l={L_mn} w={W_mn} m=2
    XMN2 NET2 NET2 RA_TOP GND sky130_fd_pr__nfet_01v8_lvt l={L_mn} w={W_mn} m=2
    
    *** Startup Circuit
    XMP4 NET4 NET2 VDD VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w=5.0 m=1
    XMP5 NET5 NET2 NET4 VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w=5.0 m=1
    XMP6 NET7 NET6 NET2 VDD sky130_fd_pr__pfet_01v8_lvt l={L_mp} w=5.0 m=2
    XMN3 NET6 NET6 NET8 GND sky130_fd_pr__nfet_01v8_lvt l=7.0 w=1.0 m=1
    XMN4 NET8 NET8 GND GND sky130_fd_pr__nfet_01v8_lvt l=7.0 w=1.0 m=1
    
    *** BJTs
    XQP1 GND GND QP1 VDD sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1
    XQP2 GND GND QP2 VDD sky130_fd_pr__pnp_05v5_W3p40L3p40 m=8
    XQP3 GND GND QP3 VDD sky130_fd_pr__pnp_05v5_W3p40L3p40 m=1
    
    *** Resistors
    XRA RA_TOP QP2 VDD sky130_fd_pr__res_high_po_1p41 w=1.41 l={L_ra}
    XRB NET3 QP3 VDD sky130_fd_pr__res_high_po_1p41 w=1.41 l={L_rb}
.ends BANDGAP_REFERENCE
