* Bandgap Reference Circuit - Complete Characterization
    .lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
    .include /dev/null
    .global VDD GND
    .temp 27

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'

*********** Unit Under Test ********************
.include "bandgap_reference.cir"
*********** Test-bench *************************
XBGR VDD GND VREF QP1 QP2 QP3 NET1 NET5 NET6 NET7 BANDGAP_REFERENCE
    *** Measurement Points
    VID1 QP1 GND DC 0
    VID2 QP2 GND DC 0
    VID3 QP3 VREF DC 0
    VID4 NET7 NET1 DC 0
    VID5 NET5 NET6 DC 0
    
    VSUP VDD GND DC 2.0 AC 1
    
    .control
    op
    
    *echo "=== DEBUG NODE VOLTAGES ==="
    *print v(QP1) v(QP2) v(QP3) v(NET3) v(VREF)
    *print v(RA_TOP) v(NET1) v(NET2)              
    *print vid1#branch vid2#branch vid3#branch vsup#branch
    *echo "==========================="
    
    set wr_singlescale
    set wr_vecnames
    option numdgt=7
    wrdata bandgap_op.txt v(VREF) vid1#branch vid2#branch vid3#branch vsup#branch


* my_testbench_template parse-friendly measures
let vref = v(VREF)
let i_supply = abs(i(VSUP))
let power_uw = i_supply * 2.0 * 1e6
print vref i_supply power_uw
    
    dc VSUP 1.8 3.3 0.1
    let vref_line = v(VREF)
    let line_regulation_percent = (abs(vref_line[length(vref_line)-1] - vref_line[0]) / op1.vref) / (3.3 - 1.8) * 100
    wrdata bandgap_dc.txt v(VREF)
    print line_regulation_percent
    
    ac dec 10 1 1Meg
    let psrr_db = db(v(VDD)/v(VREF))
    let psrr_100hz_db = psrr_db[20]
    wrdata bandgap_ac.txt frequency psrr_db

    let vref = op1.vref
    let power_uw = op1.power_uw
    let line_reg_for_fom = dc1.line_regulation_percent
    let fom = (abs(psrr_100hz_db) * 100 / (1 + abs(vref - 0.75) * 10)) / (power_uw * line_reg_for_fom)
    print psrr_100hz_db fom
    
    quit
    .endc
    
    .end
    
