.subckt BUFFER IN OUT VSS VDD
* First stage inverter
XM0 OUT1 IN VSS VSS sky130_fd_pr__nfet_01v8 w={W_nmos1} l=0.15
XM2 OUT1 IN VDD VDD sky130_fd_pr__pfet_01v8 w={W_pmos1} l=0.15
* Second stage inverter  
XM1 OUT OUT1 VSS VSS sky130_fd_pr__nfet_01v8 w={W_nmos2} l=0.15
XM3 OUT OUT1 VDD VDD sky130_fd_pr__pfet_01v8 w={W_pmos2} l=0.15
.ends BUFFER
