* Circuit Analysis
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.option scale=1e-6

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'
.param
+W_nmos1={W_nmos1_base*10}
+W_nmos2={W_nmos2_base*10}
+W_pmos1={W_pmos1_base*10}
+W_pmos2={W_pmos2_base*10}



*********** Unit Under Test ********************
.include "buffer.cir"
*********** Test-bench *************************


* Test circuit
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
Vin IN 0 DC 0 PULSE(0 1.8 200p 100p 100p 2n 4n)
Xcircuit IN OUT VSS VDD BUFFER
Cout OUT 0 10e-15

* DC Sweep for Gain
.dc Vin 0 1.8 0.01

.control
run

let vout_deriv = deriv(v(OUT))
let gain_linear = abs(vout_deriv)
let gain_db = db(gain_linear)
meas dc dc_gain_db MAX gain_db


print dc_gain_db 
.endc

* Transient for Power and Delay
.control
destroy all
reset

dc Vin 0 1.8 0.01
let vout_deriv_pp = deriv(v(OUT))
let gain_linear_pp = abs(vout_deriv_pp)
let gain_db_pp = db(gain_linear_pp)
meas dc dc_gain_db_pp MAX gain_db_pp
let dc_gain_for_fom = vecmax(gain_db_pp)

tran 1p 8n

* Power calculation
let power = v(VDD) * (-i(Vdd))
let avg_power = mean(power)
meas tran static_i AVG i(Vdd) from=50p to=150p
let static_power = abs(static_i) * 1.8
let dynamic_power = abs(avg_power - static_power)

* Delay measurements - find 50% crossings
meas tran t_in_r WHEN v(IN)=0.9 CROSS=1
meas tran t_out_r WHEN v(OUT)=0.9 CROSS=1
meas tran t_in_f WHEN v(IN)=0.9 CROSS=2
meas tran t_out_f WHEN v(OUT)=0.9 CROSS=2

let tplh = t_out_r - t_in_r
let tphl = t_out_f - t_in_f
let average_delay = (tplh + tphl)/2

* my_testbench_template parse-friendly post-processed measures
let dynamic_power = dynamic_power * 1e6
let average_delay = average_delay * 1e12
let fom = dc1.dc_gain_for_fom / (average_delay * dynamic_power)

print dynamic_power average_delay fom
quit
.endc

.end
