* Diode Load Amplifier
.lib ../../device_models/sky130_fd_pr/combined_models/sky130.lib.spice tt
.global VDD GND
.temp 27

* Design variables injected by my_testbench_template/src/ngspice.py
.include 'design_var.inc'

*********** Unit Under Test ********************
.include "diode_load_amp.cir"
*********** Test-bench *************************
XDUT VIN VOUT VDD GND DIODE_LOAD_AMP
* DC bias + AC signal (combined in one source)
VIN VIN GND DC 0.6 AC 0.001

* Supply
VDD VDD GND DC 1.8

.control
set noaskquit
set wr_singlescale
set wr_vecnames
option numdgt=7

* Operating point
op

echo "I_DD:" > diode_load_amp_results.txt
print -i(VDD) >> diode_load_amp_results.txt

echo "VOUT_DC:" >> diode_load_amp_results.txt
print v(VOUT) >> diode_load_amp_results.txt

echo "VIN_DC:" >> diode_load_amp_results.txt
print v(VIN) >> diode_load_amp_results.txt



* my_testbench_template parse-friendly measures
let i_dd = abs(i(VDD))
let power_uw = i_dd * 1.8 * 1e6
let vout_dc = v(VOUT)
let vin_dc = v(VIN)
print i_dd power_uw vout_dc vin_dc

* AC analysis
ac dec 100 1 10G

* Save AC data
wrdata diode_load_amp_results.txt_ac.txt frequency db(v(VOUT))

let gain_vec = db(v(VOUT) / 0.001)
let gain_db = gain_vec[0]
let target_gain = gain_db - 3
let idx = 0
while idx < length(gain_vec) - 1
  if (gain_vec[idx] >= target_gain) & (gain_vec[idx+1] < target_gain)
    let bandwidth_hz = frequency[idx]
    break
  end
  let idx = idx + 1
end
let bandwidth_mhz = real(bandwidth_hz) * 1e-6
let output_swing_v = op1.vout_dc
if (1.8 - op1.vout_dc) < output_swing_v
  let output_swing_v = 1.8 - op1.vout_dc
end
let power_uw = op1.power_uw
let fom = (10 ^ (gain_db / 20) * bandwidth_mhz * output_swing_v) / power_uw
print gain_db bandwidth_mhz output_swing_v fom

quit
.endc

.end
